US04552889
(αS)-3-ethyl-3-(mercaptomethyl)-α-methyl-2-oxo-1-pyrrolidineacetic acid
Following the procedures of Examples 1C-1E, α(S)-methyl-2-oxo-1-pyrrolidineacetic acid was first alkylated with ethyl iodide and then with benzylmercaptomethyl bromide. Removal of the benzyl group in the usual way and purification by chromatography provided the title compound as a mixture of diastereomers. [α]D25 =-4.04° (c=1, methanol).

reactant | α(S)-methyl-2-oxo-1-pyrrolidineacetic acid | C[C@@H](C(=O)O)N1C(CCC1)=O | C7H11NO3
reactant | ethyl iodide | C(C)I | C2H5I
reactant | benzylmercaptomethyl bromide | C(C1=CC=CC=C1)SCBr | C8H9BrS
product | (αS)-3-ethyl-3-(mercaptomethyl)-α-methyl-2-oxo-1-pyrrolidineacetic acid | C(C)C1(C(N(CC1)[C@H](C(=O)O)C)=O)CS | C10H17NO3S
